US06784167B2
To a suspension of magnesium (0.119 g, 4.97 mmol) in THF (3 mL) was added 2-bromothiophene (0.811 g, 4.97 mmol) and the reaction mixture was stirred for 3 h. Another equivalent of 2-bromothiophene (0.811 g, 4.97 mmol) was added and the reaction mixture was heated at the reflux temperature for 2 h, then allowed to cool to room temperature. The resulting mixture was added to a solution of 5-bromo-2-dimethylaminopyridine (1.0 g, 4.97 mmol) in THF (12 mL) and the reaction was heated at the reflux temperature for 11 h, then was allowed to cool to room temperature. The resulting mixture was treated with water (10 mL), extracted with EtOAc (3×30 mL), dried (MgSO4) and concentrated under reduced pressure. The crude product was purified by flash chromatography (10% EtOAc/hex) to give 5-(2-thienyl)-2-dimethylaminopyridine (0.3 g, 29%): TLC (10% EtOAc/hex) Rf 0.24; HPLC ES-MS m/z (relative abundance) 205 (MH+, 100%).

reactant | magnesium | 4.97 mmol, 0.119 g | [Mg] | Mg
reactant | 2-bromothiophene | 4.97 mmol, 0.811 g | BrC=1SC=CC1 | C4H3BrS
reactant | 2-bromothiophene | 4.97 mmol, 0.811 g | BrC=1SC=CC1 | C4H3BrS
reactant | 5-bromo-2-dimethylaminopyridine | 4.97 mmol, 1.0 g | BrC=1C=CC(=NC1)N(C)C | C7H9BrN2
reactant | water | 10 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 5-(2-thienyl)-2-dimethylaminopyridine | 0.3 g, 29% | S1C(=CC=C1)C=1C=CC(=NC1)N(C)C | C11H12N2S
